US08466200B2
a) 4-[2-(3-Adamantan-2-yl-1-methyl-ureido)-ethoxy]-benzoic acid methyl ester
A solution of 4H-Imidazole-1-carboxylic acid adamantan-2-ylamide 0.5 g (2.04 mmol) and 4-(2-Methylamino-ethoxy)-benzoic acid methyl ester 426.8 mg (2.04 mmol) in methylene chloride 10 ml was stirred at room temperature for 2 days. Water was added, the organic phase extracted, dried and concentrated to dryness. The residue was purified by flash chromatography on silica gel (eluant DCM/MeOH: 100/0 to 95/05) yielding 596 mg as white solid.

reactant | 4H-Imidazole-1-carboxylic acid adamantan-2-ylamide | 2.04 mmol, 0.5 g | C12C(C3CC(CC(C1)C3)C2)NC(=O)N2C=NCC2 | C14H21N3O
reactant | 4-(2-Methylamino-ethoxy)-benzoic acid methyl ester | 2.04 mmol, 426.8 mg | COC(C1=CC=C(C=C1)OCCNC)=O | C11H15NO3
reactant | Water | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-[2-(3-Adamantan-2-yl-1-methyl-ureido)-ethoxy]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OCCN(C(=O)NC1C2CC3CC(CC1C3)C2)C)=O | C22H30N2O4
